US07888364B2
21 mg of sodium hydride was added to a solution of 84 mg of 3,5-dimethylpyrazole in 2 mL of DMF. The reaction mixture was stirred for 10 min, and then added 100 mg of 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)nicotinamide. The reaction was heated to 140° C. for 16 h. The mixture was quenched with MeOH and evaporated. The product was purified on reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-6-(3,5-dimethyl-1H-pyrazol-1-yl)nicotinamide. MS (Q1) 404.3 (M)+.

reactant | sodium hydride | 21 mg | [H-].[Na+]
reactant | 3,5-dimethylpyrazole | 84 mg | CC1=NNC(=C1)C | C5H8N2
reactant | 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)nicotinamide | 100 mg | ClC1=NC=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1 | C17H11Cl2N3O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-6-(3,5-dimethyl-1H-pyrazol-1-yl)nicotinamide | ClC1=C(C=C(C=C1)NC(C1=CN=C(C=C1)N1N=C(C=C1C)C)=O)C1=NC=CC=C1 | C22H18ClN5O
